US06335360B1
5-Methoxyindoline-2(R/S)-carboxylic acid methyl ester
5-Methoxyindole-2-carboxylic acid ethyl ester (2 g, 9.13 mmol) and magnesium turnings (0.432 g, 18 mmol) were suspended in dried methanol (30 ml). This mixture was stirred at 5 to 10° C. under nitrogen for 3 hours, then poured into dichloromethane (200 ml), and washed with saturated ammonium chloride solution. The organic layer was separated, and the aqueous layer was extracted with dichloromethane (3×100 ml). The combined organic layers were dried over sodium sulphate and evaporated. A brown solid was obtained. After column chromatography on silica gel using dichloromethane as eluent, a brown solid was obtained.

reactant | 5-Methoxyindole-2-carboxylic acid ethyl ester | 9.13 mmol, 2 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC | C12H13NO3
reactant | magnesium | 18 mmol, 0.432 g | [Mg] | Mg
solvent | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-Methoxyindoline-2(R/S)-carboxylic acid methyl ester | COC(=O)C1NC2=CC=C(C=C2C1)OC | C11H13NO3
